US04690705
1-(3,4-dibromo-2-thienyl)-1-(2-thienyl)methanone
To a solution of 30 g of 3,4-dibromothiophene and 13.5 mL of thiophene-2-carbonylchloride in 120 mL of carbon disulfide was added 16.5 g aluminum trichloride portionwise over 10 minutes. The mixture was stirred for 3 hours, poured into 900 g of ice-water and extracted with methylene chloride. The organic layer was washed with 1N NaOH (aq), water, and dried (MgSO4). Filtration and concentration of the filtrate, in vacuo, afforded an oil which crystallized upon trituration with n-chlorobutane to yield 32 g of the subject compound as an off-white solid, m.p. 105°-109° C.

reactant | 3,4-dibromothiophene | 30 g | BrC1=CSC=C1Br | C4H2Br2S
reactant | thiophene-2-carbonylchloride | 13.5 mL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | aluminum trichloride | 16.5 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | carbon disulfide | 120 mL | C(=S)=S | CS2
product | 1-(3,4-dibromo-2-thienyl)-1-(2-thienyl)methanone | 32 g | BrC1=C(SC=C1Br)C(=O)C=1SC=CC1 | C9H4Br2OS2
